US07060441B2
Synthesis of Phenylmethyldiazomethane (PMDAM)
Acetopheneone hydrazone: acetophenone (2.0 g, 16 mmol) is diluted in 16 ml of absolute ethanol and then hydrazine (2.3 ml, 48 mmol) is added. The mixture is heated to reflux temperature. After 2 h, the solvent is evaporated and the residue is taken up in ether (150 ml). The medium is washed with water (100 ml). After drying over Na2SO4, the ether is evaporated off. A pale yellow oil (1.5 g, 11 mmol, 69%) is obtained.

reactant | acetophenone | 16 mmol, 2.0 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | hydrazine | 48 mmol, 2.3 ml | NN | H4N2
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | Phenylmethyldiazomethane | 11 mmol, 1.5 g, 69% | C1(=CC=CC=C1)CC=[N+]=[N-] | C8H8N2
